US07420001B2
To 4-hydroxy-3-methyl-benzofuran-2-carboxylic acid ethyl ester 0.5 g (2.27 mmol) was added 15 mL of chlorobenzene, 0.27 g (3.4 mmol) of acetyl chloride and 0.63 mL (5.7 mmol) of titanium tetrachloride. The mixture was sealed in a pressure tube and the tube was placed in 95° C. oil bath for 5 h with stirring. The reaction mixture was washed with 0.5N HCl and was extracted with ethyl acetate. Removal of the solvents gave the crude product, which was purified by column chromatography to give 0.33 g (59% yield) of 5-acetyl-4-hydroxy-3-methyl-benzofuran-2-carboxylic acid ethyl ester as a white solid.

reactant | 4-hydroxy-3-methyl-benzofuran-2-carboxylic acid ethyl ester | 2.27 mmol, 0.5 g | C(C)OC(=O)C=1OC2=C(C1C)C(=CC=C2)O | C12H12O4
reactant | acetyl chloride | 3.4 mmol, 0.27 g | C(C)(=O)Cl | C2H3ClO
catalyst | titanium tetrachloride | 5.7 mmol, 0.63 mL | [Ti](Cl)(Cl)(Cl)Cl
solvent | chlorobenzene | 15 mL | ClC1=CC=CC=C1 | C6H5Cl
product | 5-acetyl-4-hydroxy-3-methyl-benzofuran-2-carboxylic acid ethyl ester | 0.33 g, 59% yield | C(C)OC(=O)C=1OC2=C(C1C)C(=C(C=C2)C(C)=O)O | C14H14O5
